US06448242B1
10% Palladium on carbon (104 mg) and concentrated hydrochloric acid (0.60 ml; 7.2 mmol) were added to a solution in methanol (10 ml) of 4-(4-benzyl-1-piperazinyl)-1-(4-tert-butoxycarbonyl-1-piperazinyl)benzene (354 mg; 0.81 mmol) synthesized by the above process. After the mixture was stirred for 12 hours in a bath controlled at 55° C. under hydrogen, the catalyst was removed from the reaction mixture by filtration. After the filtrate was concentrated under reduced pressure, a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was conducted twice. The resultant concentrated residue was dissolved in water (5 ml), and potassium carbonate (400 mg; 2.9 mmol) and di-tert-butyl dicarbonate (1.0 g; 4.6 mmol) were added to this solution under ice cooling. After the mixture was stirred for 30 minutes, the reaction mixture was extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel, thereby obtaining 1,4-bis(4-tert-butoxycarbonyl-1-piperazinyl)benzene (59 mg; yield: 16%) as a colorless oil.

reactant | hydrochloric acid | 7.2 mmol, 0.60 ml | Cl | ClH
reactant | 4-(4-benzyl-1-piperazinyl)-1-(4-tert-butoxycarbonyl-1-piperazinyl)benzene | 0.81 mmol, 354 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C26H36N4O2
reactant | potassium carbonate | 2.9 mmol, 400 mg | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 4.6 mmol, 1.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | Palladium on carbon | 104 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 1,4-bis(4-tert-butoxycarbonyl-1-piperazinyl)benzene | 59 mg, yield: 16% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C24H38N4O4
